US05364972
The 4-nitro-2',4'-dimethylbenzophenone obtained in b) was mixed with 900 ml of isobutanol and 3.5 g of activated nickel powder and hydrogenated under a slight superatmospheric pressure (1.25 bar) of hydrogen at 50°-60° C. to give 4-amino-2',4'-dimethylbenzophenone. The catalyst was filtered off and then the organic solvent was distilled off to recover it, and water at 95° C. was added to the residue at 100°-110° C. and the mixture was stirred until room temperature was reached. 4-Amino-2',4'-dimethylbenzophenone crystallized out at 90° C. The crystalline product was filtered off with suction, washed with water and dried. 215 g of amino compound (melting point 121° C.) were obtained.

reactant | 4-nitro-2',4'-dimethylbenzophenone | [N+](=O)([O-])C1=CC=C(C(=O)C2=C(C=C(C=C2)C)C)C=C1 | C15H13NO3
reactant | hydrogen | [H][H] | H2
catalyst | nickel | 3.5 g | [Ni] | Ni
solvent | isobutanol | 900 ml | C(C(C)C)O | C4H10O
product | 4-amino-2',4'-dimethylbenzophenone | NC1=CC=C(C(=O)C2=C(C=C(C=C2)C)C)C=C1 | C15H15NO
